### PR TITLE
TopCatLemma [stacks 08ZH]

### PR DESCRIPTION
**Pull request by haowen214**
Finished the proof of [stacks 08ZH] (isClosedEmbedding_pullback_to_prod)

 I have a small question of one part, which seems to be a lemma already in Mathlib but doesn't seem to match the universe level, so I just adapted the proof lines rather than applying the lemma, but I don't know if there is a better way that I should do it? (See my comments inside the file)

### CODE REVIEW

File: Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 1]
```diff
@@ -10,5 +10,36 @@ open CategoryTheory Limits
...
+          have : ((homeoOfIso (X.prodIsoProd Y)) ((ConcreteCategory.hom (prod.lift (pullback.fst f g) (pullback.snd f g))) a)).1 = ((prod.lift (pullback.fst f g) (pullback.snd f g)) ≫ (X.prodIsoProd Y).hom ≫ TopCat.prodFst ) a := rfl
+          rw[this]
+          simp only [prodIsoProd_hom_fst, limit.lift_π, BinaryFan.mk_pt, BinaryFan.mk_fst]
+          have : ((homeoOfIso (X.prodIsoProd Y)) ((ConcreteCategory.hom (prod.lift (pullback.fst f g) (pullback.snd f g))) a)).2 = ((prod.lift (pullback.fst f g) (pullback.snd f g)) ≫ (X.prodIsoProd Y).hom ≫ TopCat.prodSnd ) a := rfl
+          rw[this]
+          simp [f1, g1]
+          rw[← ConcreteCategory.comp_apply]
+          simp[pullback.condition]
+        · intro ha
+          -- For this part, there is a mathlib lemma "range_pullback_to_prod", but if we want to apply that lemma, we see that in this lemma we have 'TopCat: Type 1', but we are in 'TopCat : Type (u + 1)' so Lean shows a mismatch and cannot state 'range_pullback_to_prod f g' for our f and g. But since the proof lines are essentially the same, I just adapted the original proof lines below. I don't know if there is a better way of doing it. -- Haowen
```
Comment (chrisflav) [inline Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean]: The issue here is that the [TopCat.range_pullback_to_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.html#TopCat.range_pullback_to_prod) lemma has bad universe generality (in fact, Lean inferred the universe in `TopCat` to be `0`). This needs to be fixed in mathlib.

Comment (haowen214) [reply Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean]: I guess they should've wrriten `{X Y Z : TopCat.{u}}` insteand of `{X Y Z : TopCat}` there right?

Comment (chrisflav) [reply Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean]: Yes, to be safe. Universe unification does not always have a unique solution, so I think the algorithm sometimes applies some heuristics. If you get lucky, it gets it right, but here it seems we don't get lucky.

File: Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 2]
```diff
@@ -10,5 +10,36 @@ open CategoryTheory Limits
...
+          apply Concrete.limit_ext
+          rintro ⟨⟨⟩⟩ <;>
+             rw [← ConcreteCategory.comp_apply, ← ConcreteCategory.comp_apply, limit.lift_π] <;>
+              -- This used to be `simp` before https://github.com/leanprover/lean4/pull/2644
+          cat_disch
+      have hfg := Continuous.prodMap (map_continuous f1) (map_continuous g1)
+      have hc := IsClosed.preimage hfg (t2Space_iff_diagonal_closed.mp ‹T2Space Z›)
+      have hc1 := (TopCat.homeoOfIso (TopCat.prodIsoProd X Y)).isClosed_preimage.mpr hc
+      rw[← s1] at hc1
+      exact hc1
```
Comment (chrisflav) [inline Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean]: Here is a golfed version of your proof. Mathematically, it is exactly the same. I just rephrased things a bit, to make them more compact.
```suggestion
  refine ⟨isEmbedding_pullback_to_prod f g, ?_⟩
  suffices s1 : Set.range (prod.lift (pullback.fst f g) (pullback.snd f g)) =
      (homeoOfIso (prodIsoProd X Y)) ⁻¹' (Prod.map f.hom g.hom ⁻¹' Set.range fun x ↦ (x, x)) by
    rw [s1, (TopCat.homeoOfIso (TopCat.prodIsoProd X Y)).isClosed_preimage]
    exact .preimage (.prodMap (map_continuous f.hom) (map_continuous g.hom))
      (t2Space_iff_diagonal_closed.mp ‹T2Space Z›)
  ext x
  simp only [Set.mem_range, Set.range_diag, Set.mem_preimage, Set.mem_diagonal_iff, Prod.map_fst,
    Prod.map_snd]
  constructor
  · rintro ⟨a, rfl⟩
    rw [← TopCat.prodFst_apply, ← TopCat.prodSnd_apply, homeoOfIso_apply]
    simp only [← ConcreteCategory.comp_apply]
    simp [pullback.condition]
  · intro ha
    -- TODO: replace this by `range_pullback_to_prod` after updating mathlib
    use (pullbackIsoProdSubtype f g).inv ⟨(X.prodIsoProd Y).hom x , ha⟩
    apply Concrete.limit_ext
    rintro ⟨⟨⟩⟩ <;>
       rw [← ConcreteCategory.comp_apply, ← ConcreteCategory.comp_apply, limit.lift_π] <;>
        -- This used to be `simp` before https://github.com/leanprover/lean4/pull/2644
    cat_disch
```
As you can see, this relies on adding two new lemmas:
```
lemma TopCat.prodFst_apply {X Y : TopCat.{u}} (x : X × Y) : TopCat.prodFst x = x.1 := by
  rfl

lemma TopCat.prodSnd_apply {X Y : TopCat.{u}} (x : X × Y) : TopCat.prodSnd x = x.2 := by
  rfl
```
(these are the two I mentioned last Wednesday)

A few things to note:
- If you have one long `have` and the main proof quickly follows from that, consider restructuring it into a `suffices` as above. It gets rid of a long indented block and it is also a bit easier to follow I find.
- If you are proving two things with `constructor`, but one of the proofs is very short, consider using `refine ⟨short_proof, ?_⟩`. This also gets rid of a long indented block.
- I have also adapted the mathlib style everywhere, which for example says `rw[h]` should be `rw [h]` (note the additional space), but this is of course a very minor point.

I hope this is useful for you, please don't take it as a discouragement that the proof can be golfed a bit :)

**Review by chrisflav — COMMENTED** [review]
Thanks for contributing to this project! I have made a suggestion below. You can just put the two additional lemmas above this lemma in the same file.

Looking forward to more contributions! :)

File: Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean (hunk 1 above)
Comment (chrisflav) [reply Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean]: BTW, I made #38779 to fix the issue in mathlib and it is merged now, so the next time when I update this repository to the latest mathlib version, I'll remove the TODO.

File: Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean (hunk 2 above)
Comment (chrisflav) [reply Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean]: I went ahead and updated the branch, so that I can merge your PR. Let me know if you have any questions.

**Comment by haowen214** [comment]
Hi Christian! Thank you very much for all the constructive feedbacks! (They are very useful and especially important for someone like me to know and learn in order to go deeper, so you should definitely keep telling me about all this!) I am sorry that I was away from work for two weeks because of some personal issues and now I am back to work and hopefully I will contribute more soon!
